US07074799B2
To a solution of 2-(4-bromophenyl)-3-(trifluoromethyl)-pyridine (0.93 mmol) in H2SO4 (4 mL) cautiously add fuming HNO3 (2 ml). Stir the mixture 30 minutes at room temperature. Pour the mixture onto ice-water (20 mL) and collect the precipitate. Dissolve the precipitate in EtOAc and neutralize with saturated NaHCO3, dry over Na2SO4, concentrate under vacuum to obtain 2-(4-bromo-3-nitro-phenyl)-3-(trifluoromethyl)-pyridine.

reactant | 2-(4-bromophenyl)-3-(trifluoromethyl)-pyridine | 0.93 mmol | BrC1=CC=C(C=C1)C1=NC=CC=C1C(F)(F)F | C12H7BrF3N
reactant | HNO3 | 2 ml | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
product | 2-(4-bromo-3-nitro-phenyl)-3-(trifluoromethyl)-pyridine | BrC1=C(C=C(C=C1)C1=NC=CC=C1C(F)(F)F)[N+](=O)[O-] | C12H6BrF3N2O2
